US04704459
In 5 ml of chloroform was dissolved 500 mg of ethyl 2-[6-chloro-2-(2,4-difluorophenylamino)-5-fluoronicotinoyl]acetate, and 260 mg of 3-aminopyrrolidine dihydrochloride and 500 mg of triethylamine were added thereto, after which the resulting mixture was subjected to reaction under reflux for 1.5 hours. Subsequently, the reaction mixture was added to a mixture of 5 ml of chloroform and 5 ml of water, and the organic layer was separated, washed successively with 5 ml of water and 5 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the crystalline material thus obtained was added 2 ml of diisopropyl ether, after which crystals were collected by filtration to obtain 480 mg (yield 84.7%) of ethyl 2-[6-(3-amino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinoyl]acetate having a melting point of 140°-142° C.

reactant | ethyl 2-[6-chloro-2-(2,4-difluorophenylamino)-5-fluoronicotinoyl]acetate | 500 mg | ClC1=NC(=C(C(=O)CC(=O)OCC)C=C1F)NC1=C(C=C(C=C1)F)F | C16H12ClF3N2O3
reactant | 3-aminopyrrolidine dihydrochloride | 260 mg | Cl.Cl.NC1CNCC1
reactant | triethylamine | 500 mg | C(C)N(CC)CC | C6H15N
reactant | diisopropyl ether | 2 ml | C(C)(C)OC(C)C | C6H14O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 5 ml | O | H2O
product | ethyl 2-[6-(3-amino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinoyl]acetate | 480 mg, yield 84.7% | NC1CN(CC1)C1=NC(=C(C(=O)CC(=O)OCC)C=C1F)NC1=C(C=C(C=C1)F)F | C20H21F3N4O3
